US07662974B2
2.4 Liters of ethyl acetate and 200 g (2.3 mol, 15 eq) of manganese dioxide were added to 80 g (0.15 mol) of 6-[hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide. The mixture was stirred at 40˜45° C. for 6 hours, filtered with Celite, and the filtered material was washed with 300 mL of ethyl acetate two times. After the filtrate was concentrated under reduced pressure, 200 mL of ethyl acetate and 400 mL of IPE were added to the concentration residue, followed by stirring at 0° C. for 2 hours. Crystals were filtered, and washed with 200 mL of IPE. Vacuum drying (50° C.) to a constant weight afforded 69.8 g of N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide (yield 88%).

reactant | 6-[hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide | 0.15 mol, 80 g | OC(C=1C=C2C=CC(=CC2=CC1)C(=O)NC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H29N3O2
catalyst | manganese dioxide | 2.3 mol, 200 g, 15 eq | [O-2].[O-2].[Mn+4]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 69.8 g, yield 88% | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
